US08304552B2
The TFA salt of N-(2-aminoethyl)nicotinamide (1.6 g, 5.7 mmol) was taken up in CH3CN (15 mL) along with (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid (1.7 g, 5.7 mmol), HATU (2.4 g, 6.3 mmol) and DIEA (3 mL, 17 mmol). The resulting reaction mixture was stirred at room temperature for 2 h and diluted with EtOAc. The organic layer was washed with saturated aqueous NaHCO3, brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by silica gel chromatography (5% MeOH—CH2Cl2) afforded N-(2-(5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamidoethyl)nicotinamide (1.6 g, 62%). MS calculated for C28H39N3O2: 449.3. found: [M+H]+ 450.

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-(2-aminoethyl)nicotinamide | 5.7 mmol, 1.6 g | NCCNC(C1=CN=CC=C1)=O | C8H11N3O
reactant | (5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenoic acid | 5.7 mmol, 1.7 g | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)O | C20H30O2
reactant | HATU | 6.3 mmol, 2.4 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 17 mmol, 3 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | 15 mL | CC#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-(5Z,8Z,11Z,14Z,17Z)-eicosa-5,8,11,14,17-pentaenamidoethyl)nicotinamide | 1.6 g, 62% | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)(=O)NCCNC(C1=CN=CC=C1)=O | C28H39N3O2
